US04064176
acetyl m-terphenyl.
Nitrobenzene is stripped with steam and the solid residue is dissolved into acetone. After filtration and the acetone evaporation, 400 g of crude product is obtained.

reactant | Nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | acetone | CC(=O)C | C3H6O
product | acetyl m-terphenyl | 400 g | C(C)(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)C1=CC=CC=C1 | C20H16O
